US09421213B2
Sodium hydroxide (50% w/w) (20.04 ml, 379.60 mmol) was added to (3R)-4-(2-chloro-6-(methylsulfinylmethyl)pyrimidin-4-yl)-3-methylmorpholine (2.2 g, 7.59 mmol), 1-bromo-2-(2-bromoethoxy)ethane (3.79 ml, 30.37 mmol) and tetraoctylammonium bromide (0.415 g, 0.76 mmol) in methyl THF (20.05 ml). The resulting mixture was stirred at RT for 90 minutes. The reaction mixture was diluted with methyl THF (50 mL), and washed sequentially with water (50 ml) and saturated brine (5 ml). The organic layer was dried over MgSO4, filtered and then evaporated onto silica (30 g). The resulting powder was purified by flash chromatography on silica, eluting with a gradient of 0 to 5% MeOH in DCM. Pure fractions were evaporated to afford (3R)-4-(2-chloro-6-(4-(methylsulfinyl)tetrahydro-2H-pyran-4-yl)pyrimidin-4-yl)-3-methylmorpholine (1.360 g, 50%); 1H NMR (400 MHz, DMSO-d6) 1.84-1.96 (1H, m), 2.02 (1H, td), 2.09 (3H, d), 2.27-2.45 (2H, m), 3.14 (1H, d), 3.10-3.26 (3H, m), 3.24 (1H, d), 3.33-3.41 (1H, m), 3.45 (1H, td), 3.60 (1H, dd), 3.71 (1H, d), 3.78-3.87 (1H, m), 3.87-3.97 (2H, m), 4.07 (1H, d), 4.32-4.48 (1H, m), 6.76 (1H, s); m/z: (ES+) MH+, 360.11 and 362.06. b) Iodobenzene diacetate (0.788 g, 2.45 mmol) was added to (3R)-4-(2-chloro-6-(4-(methylsulfinyl)tetrahydro-2H-pyran-4-yl)pyrimidin-4-yl)-3-methylmorpholine (0.88 g, 2.45 mmol), magnesium oxide (0.394 g, 9.78 mmol), 2,2,2-trifluoroacetamide (0.553 g, 4.89 mmol) and rhodium(II) acetate dimer (0.027 g, 0.06 mmol) in DCM (20 ml). The resulting suspension was stirred at RT for 18 hours. The reaction mixture was filtered through Celite and then concentrated in vacuo onto silica (50 g). The resulting powder was purified by flash chromatography on silica, eluting with a gradient of 20 to 60% EtOAc in isohexane. Pure fractions were evaporated to afford N-[(4-{2-chloro-6-[(3R)-3-methylmorpholin-4-yl]pyrimidin-4-yl}tetrahydro-2H-pyran-4-yl)(methyl)oxido-λ6-sulfanylidene]-2,2,2-trifluoroacetamide (1.018 g, 88%); 1H NMR (400 MHz, DMSO-d6) 1.34 (3H, dd), 2.49 (1H, td), 2.63 (2H, ddd), 2.75-2.82 (1H, m), 3.26 (3H, d), 3.29-3.41 (3H, m), 3.49 (1H, s), 3.51-3.60 (1H, m), 3.63-3.73 (1H, m), 3.80 (1H, d), 3.98-4.11 (4H, m), 6.68 (1H, d); m/z: (ES-) M-H−, 469.04 and 471.03.

reactant | Sodium hydroxide | 379.60 mmol, 20.04 ml | [OH-].[Na+]
reactant | (3R)-4-(2-chloro-6-(methylsulfinylmethyl)pyrimidin-4-yl)-3-methylmorpholine | 7.59 mmol, 2.2 g | ClC1=NC(=CC(=N1)N1[C@@H](COCC1)C)CS(=O)C | C11H16ClN3O2S
reactant | 1-bromo-2-(2-bromoethoxy)ethane | 30.37 mmol, 3.79 ml | BrCCOCCBr | C4H8Br2O
catalyst | tetraoctylammonium bromide | 0.76 mmol, 0.415 g | [Br-].C(CCCCCCC)[N+](CCCCCCCC)(CCCCCCCC)CCCCCCCC
solvent | methyl THF | 20.05 ml | CN1C(CNC2=C1C(=O)N=C(N2)N)CNC3=CC=C(C=C3)C(=O)NC(CCC(=O)O)C(=O)O | C20H25N7O6
solvent | methyl THF | 50 mL | CN1C(CNC2=C1C(=O)N=C(N2)N)CNC3=CC=C(C=C3)C(=O)NC(CCC(=O)O)C(=O)O | C20H25N7O6
product | (3R)-4-(2-chloro-6-(4-(methylsulfinyl)tetrahydro-2H-pyran-4-yl)pyrimidin-4-yl)-3-methylmorpholine | 1.360 g, 50% | ClC1=NC(=CC(=N1)N1[C@@H](COCC1)C)C1(CCOCC1)S(=O)C | C15H22ClN3O3S
